US03957788
B. Preparation of α-(4-cyclohexylpiperazin-1-yl)-phenylacetonitrile
To concentrated hydrochloric acid (5.9 g) are added N-cyclohexylpiperazine (5.1 g) and then benzaldehyde (3.2 g) under cooling, and to the mixture is added dropwise a solution of potassium cyanide (2.2 g) in water (4 ml) under stirring. The mixture is heated at 90°C for one hour under stirring, by which the mixture is solidified. The reaction mixture is dissolved in ethyl acetate and thereto is added aqueous sodium hydroxide solution to make it alkaline. After the mixture is shaken, the organic layer is separated, washed with water, dried over anhydrous sodium sulfate and then distilled under a reduced pressure to remove the solvent. The residual crystals are washed with petroleum ether, dried and recrystallized from n-hexane to give the desired compound (7.5 g), colorless needles, m.p. 79° - 81°C.

reactant | hydrochloric acid | 5.9 g | Cl | ClH
reactant | N-cyclohexylpiperazine | 5.1 g | C1(CCCCC1)N1CCNCC1 | C10H20N2
reactant | benzaldehyde | 3.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium cyanide | 2.2 g | [C-]#N.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-(4-cyclohexylpiperazin-1-yl)-phenylacetonitrile | 7.5 g | C1(CCCCC1)N1CCN(CC1)C(C#N)C1=CC=CC=C1 | C18H25N3
